US04801593
2-(4-Chloro-6-hydroxymethylphenyl)ethanol (45 g) was dissolved in orthophosphoric acid (200 ml) and the solution was heated at 100° for 2 hr. The cooled reaction mixture was diluted with water (1 liter), extracted with ether (4×200 ml) and the combined ether extract was washed with sodium hydrogen carbonate solution (10% w/v 2×200 ml) and water (200 ml) and then dried (magnesium sulphate) and decolourised with activated carbon and evaporated in vacuo to afford 7-chloroisochroman as an oil, (30 g), characterised by its nmr spectrum.

reactant | 2-(4-Chloro-6-hydroxymethylphenyl)ethanol | 45 g | ClC1=CC=C(C(=C1)CO)CCO | C9H11ClO2
solvent | orthophosphoric acid | 200 ml | P(O)(O)(O)=O | H3O4P
solvent | water | 1 liter | O | H2O
product | 7-chloroisochroman | ClC1=CC=C2CCOCC2=C1 | C9H9ClO
